US08022062B2
6-Aminomethyl-2-phenyl-benzothiazole:
Add 6-bromomethyl-2-phenyl-benzothiazole (2 g, 6.57 mmol) as a suspension in methanol (100 mL) to 7M ammonia in methanol (400 mL) at 0° C. over 10 min and then stir for 3 h at room temperature. Concentrate in vacuo and purify the crude mixture by chromatography on silica gel eluting with dichloromethane/methanol (1:0 to 3:1) to obtain the title compound (1.2 g, 76%). MS (ES+) m/z: 241 (M+H+).

reactant | 6-bromomethyl-2-phenyl-benzothiazole | 6.57 mmol, 2 g | BrCC1=CC2=C(N=C(S2)C2=CC=CC=C2)C=C1 | C14H10BrNS
reactant | ammonia | 7M | N | H3N
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 400 mL | CO | CH4O
product | 6-Aminomethyl-2-phenyl-benzothiazole | 1.2 g, 76% | NCC1=CC2=C(N=C(S2)C2=CC=CC=C2)C=C1 | C14H12N2S
